************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vi_data[25] i_data[25] 0 PWL 0n 0 13n 0 13.1n {VCC} 21n {VCC} 21.1n 0 29n 
+0 29.1n {VCC} 53n {VCC} 53.1n 0 61n 0 61.1n {VCC} 
Vi_stall i_stall 0 PWL 0n {VCC} 25n {VCC} 25.1n 0 
Vi_pc[29] i_pc[29] 0 PWL 0n 0 
Vi_pc[31] i_pc[31] 0 PWL 0n 0 
Vi_data[5] i_data[5] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_pc[10] i_pc[10] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[27] i_data[27] 0 PWL 0n 0 53n 0 53.1n {VCC} 
Vi_data[7] i_data[7] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_pc[12] i_pc[12] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[31] i_data[31] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_data[29] i_data[29] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_data[9] i_data[9] 0 PWL 0n 0 9n 0 9.1n {VCC} 13n {VCC} 13.1n 0 17n 
+0 17.1n {VCC} 49n {VCC} 49.1n 0 53n 0 53.1n {VCC} 57n {VCC} 57.1n 0 
+61n 0 61.1n {VCC} 
Vi_data[10] i_data[10] 0 PWL 0n 0 13n 0 13.1n {VCC} 21n {VCC} 21.1n 0 25n 
+0 25.1n {VCC} 29n {VCC} 29.1n 0 49n 0 49.1n {VCC} 53n {VCC} 53.1n 0 
+61n 0 61.1n {VCC} 
Vi_pc[14] i_pc[14] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[12] i_data[12] 0 PWL 0n 0 9n 0 9.1n {VCC} 21n {VCC} 21.1n 0 29n 
+0 29.1n {VCC} 53n {VCC} 53.1n 0 61n 0 61.1n {VCC} 
Vi_pc[16] i_pc[16] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[1] i_pc[1] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[14] i_data[14] 0 PWL 0n 0 9n 0 9.1n {VCC} 21n {VCC} 21.1n 0 25n 
+0 25.1n {VCC} 29n {VCC} 29.1n 0 49n 0 49.1n {VCC} 53n {VCC} 53.1n 0 
+61n 0 61.1n {VCC} 
Vi_pc[18] i_pc[18] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[20] i_pc[20] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[3] i_pc[3] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[16] i_data[16] 0 PWL 0n 0 13n 0 13.1n {VCC} 21n {VCC} 21.1n 0 29n 
+0 29.1n {VCC} 53n {VCC} 53.1n 0 61n 0 61.1n {VCC} 
Vi_pc[22] i_pc[22] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[5] i_pc[5] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[18] i_data[18] 0 PWL 0n 0 13n 0 13.1n {VCC} 21n {VCC} 21.1n 0 25n 
+0 25.1n {VCC} 29n {VCC} 29.1n 0 49n 0 49.1n {VCC} 53n {VCC} 53.1n 0 
+61n 0 61.1n {VCC} 
Vi_data[20] i_data[20] 0 PWL 0n 0 9n 0 9.1n {VCC} 21n {VCC} 21.1n 0 29n 
+0 29.1n {VCC} 53n {VCC} 53.1n 0 61n 0 61.1n {VCC} 
Vi_pc[24] i_pc[24] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[0] i_data[0] 0 PWL 0n 0 9n 0 9.1n {VCC} 13n {VCC} 13.1n 0 17n 
+0 17.1n {VCC} 21n {VCC} 21.1n 0 25n 0 25.1n {VCC} 29n {VCC} 29.1n 0 
+49n 0 49.1n {VCC} 53n {VCC} 53.1n 0 57n 0 57.1n {VCC} 
Vi_pc[7] i_pc[7] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[22] i_data[22] 0 PWL 0n 0 9n 0 9.1n {VCC} 21n {VCC} 21.1n 0 25n 
+0 25.1n {VCC} 29n {VCC} 29.1n 0 49n 0 49.1n {VCC} 53n {VCC} 53.1n 0 
+61n 0 61.1n {VCC} 
Vi_pc[26] i_pc[26] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[2] i_data[2] 0 PWL 0n 0 21n 0 21.1n {VCC} 53n {VCC} 53.1n 0 61n 
+0 61.1n {VCC} 
Vi_pc[9] i_pc[9] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[24] i_data[24] 0 PWL 0n 0 9n 0 9.1n {VCC} 13n {VCC} 13.1n 0 17n 
+0 17.1n {VCC} 21n {VCC} 21.1n 0 25n 0 25.1n {VCC} 29n {VCC} 29.1n 0 
+49n 0 49.1n {VCC} 53n {VCC} 53.1n 0 57n 0 57.1n {VCC} 
Vi_push i_push 0 PWL 0n 0 9n 0 9.1n {VCC} 29n {VCC} 29.1n 0 45n 
+0 45.1n {VCC} 61n {VCC} 61.1n 0 
Vi_pc[30] i_pc[30] 0 PWL 0n 0 
Vi_pc[28] i_pc[28] 0 PWL 0n 0 
Vi_data[4] i_data[4] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_data[26] i_data[26] 0 PWL 0n 0 21n 0 21.1n {VCC} 53n {VCC} 53.1n 0 61n 
+0 61.1n {VCC} 
Vi_data[6] i_data[6] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_pc[11] i_pc[11] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[30] i_data[30] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_data[28] i_data[28] 0 PWL 0n 0 61n 0 61.1n {VCC} 
Vi_data[8] i_data[8] 0 PWL 0n 0 13n 0 13.1n {VCC} 21n {VCC} 21.1n 0 29n 
+0 29.1n {VCC} 53n {VCC} 53.1n 0 61n 0 61.1n {VCC} 
Vi_pc[13] i_pc[13] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[11] i_data[11] 0 PWL 0n 0 9n 0 9.1n {VCC} 13n {VCC} 13.1n 0 17n 
+0 17.1n {VCC} 29n {VCC} 29.1n 0 57n 0 57.1n {VCC} 
Vi_pc[15] i_pc[15] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[0] i_pc[0] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[13] i_data[13] 0 PWL 0n 0 13n 0 13.1n {VCC} 49n {VCC} 49.1n 0 53n 
+0 53.1n {VCC} 57n {VCC} 57.1n 0 61n 0 61.1n {VCC} 
Vi_pc[17] i_pc[17] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_reset_n i_reset_n 0 PWL 0n 0 5n 0 5.1n {VCC} 77n {VCC} 77.1n 0 85n 
+0 85.1n {VCC} 
Vi_pc[2] i_pc[2] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[15] i_data[15] 0 PWL 0n 0 13n 0 13.1n {VCC} 29n {VCC} 29.1n 0 57n 
+0 57.1n {VCC} 
Vi_pc[19] i_pc[19] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[21] i_pc[21] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[4] i_pc[4] 0 PWL 0n {VCC} 
Vi_data[17] i_data[17] 0 PWL 0n 0 9n 0 9.1n {VCC} 13n {VCC} 13.1n 0 17n 
+0 17.1n {VCC} 49n {VCC} 49.1n 0 53n 0 53.1n {VCC} 57n {VCC} 57.1n 0 
+61n 0 61.1n {VCC} 
Vi_pc[23] i_pc[23] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_pc[6] i_pc[6] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[19] i_data[19] 0 PWL 0n 0 9n 0 9.1n {VCC} 13n {VCC} 13.1n 0 17n 
+0 17.1n {VCC} 29n {VCC} 29.1n 0 57n 0 57.1n {VCC} 
Vi_data[21] i_data[21] 0 PWL 0n 0 13n 0 13.1n {VCC} 49n {VCC} 49.1n 0 53n 
+0 53.1n {VCC} 57n {VCC} 57.1n 0 61n 0 61.1n {VCC} 
Vi_pc[25] i_pc[25] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[1] i_data[1] 0 PWL 0n 0 13n 0 13.1n {VCC} 21n {VCC} 21.1n 0 29n 
+0 29.1n {VCC} 53n {VCC} 53.1n 0 61n 0 61.1n {VCC} 
Vi_pc[8] i_pc[8] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[23] i_data[23] 0 PWL 0n 0 13n 0 13.1n {VCC} 29n {VCC} 29.1n 0 57n 
+0 57.1n {VCC} 
Vi_pc[27] i_pc[27] 0 PWL 0n 0 77n 0 77.1n {VCC} 
Vi_data[3] i_data[3] 0 PWL 0n 0 53n 0 53.1n {VCC} 

